reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](/[C:3]([C:4]([H:14])([H:15])[H:16])=[N:5]/[C:6](=[O:7])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],64.7138819158956
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5](=[O:7])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:16])([H:17])([H:18])[H:19],80.936251555922
[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5]>>[C:3]([H:7])[H:8].[O:1]([C:2](=[C:4]([H:9])[H:10])[H:6])[H:5],98.3751601079092
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:5]1[C:4]([H:9])([H:10])[N:3]([H:8])[C:2]([H:7])=[C:6]1[H:11],112.571136440232
[C-:1]([O+:3]=[C:2]([H:6])[H:7])([H:4])[H:5]>>[C:1]1([H:4])([H:5])[C:2]([H:6])([H:7])[O:3]1,16.030031622887783
[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[O:2])([H:6])[H:8].[C:3](=[C:4]([O:5][H:7])[H:11])([H:9])[H:10],59.9857439926836
[N:1]([C-:2]=[O+:3][C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],52.751349230430996
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])=[N:7][C:6]1=[O:5])([H:8])([H:9])[H:10],98.2900128977988
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@:3]([C:5]([H:16])([H:17])[H:18])([C:6]1=[N:7][C:4]1([H:13])[H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],107.979160590268
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C@:4]1([H:15])[O:5][C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],110.643262308638
[C:5]1([H:10])([H:11])[C:6]([H:9])=[N:7]1.[N:1]#[C:2][C:3](=[O:4])[H:8]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],43.913871671222594
[O:1]([C:2]([C:3][N:5]([C:4]([C:6](=[O:7])[H:14])([H:11])[H:12])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],44.376134016981595
[C:1]([C@@:2]([O:3][H:14])([C@@:4]1([H:10])[C:5]([H:12])([H:13])[O:6]1)[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],53.3312024582724
[N:1]([C:2](=[O:3])[N:6]=[C:5]=[C:4]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],60.93566024758209
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:12])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:10])[H:11],68.3932125812449
[N:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[O:5]/[C:6]1=[N:7]\[H:15])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],69.16167656085494
[C:1]([C:2](=[O:3])[C@:5]([C:4]([H:10])([H:11])[H:13])([O:6][H:14])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],77.42634029899872
[N:1](=[C:2](/[C:3]([O+:4]=[C-:5][H:11])([H:8])[H:9])[O:6][H:10])\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],19.007490809367397
[C:1](=[C:2]=[C:3]([C:4](=[O:5])[H:9])[H:7])([H:6])[H:8]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],88.57730806661803
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:3][H:11])[C:6]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])=[N:7]1)([H:8])([H:9])[H:10],72.92939231251529
[C:1](/[N:2]=[C:3]([N:4]([H:11])[H:12])/[C:5]([O:6][H:13])=[N:7]\[H:14])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],30.3386491723204
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]1=[C:4]=[C:5]([O:6][H:7])[H:10],58.837348541754
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])([C:6]([H:14])([H:15])[H:16])[H:11]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],56.90056502023642
[C:1]([N:4]([C:3](=[C:2]([H:10])[H:11])[C:6]([H:13])([H:14])[H:15])[O:5][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],79.30863346536958
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C+:2](=[C:3]([O-:4])[N:5]([H:11])[H:12])[H:9].[C:1]([H:6])([H:7])([H:8])[H:10],98.5201486433419
